US05273975
A mixture of methyl 4-methyl-2-chloro-1H-benzimidazole-1-carboxylate (17.5 g, 0.078 mol), N-bromosuccinimide (13.9 g, 0.078 mol) and benzoyl peroxide (2.0 g) in carbon tetrachloride (175 mL) was stirred at reflux for 2 hours. The solution was cooled, filtered to remove succinimide by-products, evaporated and crystallized from ethyl acetate:hexane to give 17.1 g of methyl-4-(bromomethyl)-2-chloro-1H-benzimidazole-1-carboxylate as a pale yellow solid.

reactant | methyl 4-methyl-2-chloro-1H-benzimidazole-1-carboxylate | 0.078 mol, 17.5 g | CC1=CC=CC=2N(C(=NC21)Cl)C(=O)OC | C10H9ClN2O2
reactant | N-bromosuccinimide | 0.078 mol, 13.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 175 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl-4-(bromomethyl)-2-chloro-1H-benzimidazole-1-carboxylate | 17.1 g | COC(=O)N1C(=NC2=C1C=CC=C2CBr)Cl | C10H8BrClN2O2
